US09376436B2
A solution of 4-(5-ethoxy-2-fluoro-phenyl)-6-isopropyl-pyridine-2-carbaldehyde (which may be prepared as described in Description 116) (570 mg, 1.98 mmol) in DCM (10 mL) was treated with 3-amino-1-methyl-pyrrolidin-2-one (226.45 mg, 1.98 mmol) and magnesium sulphate (1193.7 mg, 9.92 mmol). The mixture was stirred overnight and then filtered and concentrated to give 3-[(E)-[4-(5-ethoxy-2-fluoro-phenyl)-6-isopropyl-2-pyridyl]methylene-amino]-1-methyl-pyrrolidin-2-one as an oil. To a stirred solution of this material (759.25 mg, 1.98 mmol) in anhydrous THF (10 mL) under nitrogen at room temperature, was added phenyl vinyl sulfone (0.34 g, 2.02 mmol) and silver acetate (0.04 g, 0.01 mL, 0.2200 mmol). The resulting mixture was left to stir at room temperature for 2 h. The reaction mixture was filtered through Celite and the celite was washed with THF (approx. 20 mL). The filtrate was stirred under nitrogen in an ice bath and treated with potassium t-butoxide (2.33 mL, 3.96 mmol) over 5 minutes. After completion of the addition, the mixture was stirred at room temperature for 1 hr. Acetic acid (0.23 mL, 3.96 mmol) was added and the mixture was stirred for 5 minutes and then filtered through Celite and concentrated. The material was purified by chromatography using a Biotage Si—NH column, and eluting with 10-100% ethyl acetate in isohexane to give racemic 2-[4-(5-ethoxy-2-fluoro-phenyl)-6-isopropyl-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one as a yellow gum (734.8 mg);

reactant | 4-(5-ethoxy-2-fluoro-phenyl)-6-isopropyl-pyridine-2-carbaldehyde | 1.98 mmol, 570 mg | C(C)OC=1C=CC(=C(C1)C1=CC(=NC(=C1)C(C)C)C=O)F | C17H18FNO2
reactant | 3-amino-1-methyl-pyrrolidin-2-one | 1.98 mmol, 226.45 mg | NC1C(N(CC1)C)=O | C5H10N2O
reactant | magnesium sulphate | 9.92 mmol, 1193.7 mg | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-[(E)-[4-(5-ethoxy-2-fluoro-phenyl)-6-isopropyl-2-pyridyl]methylene-amino]-1-methyl-pyrrolidin-2-one | C(C)OC=1C=CC(=C(C1)C1=CC(=NC(=C1)C(C)C)\C=N\C1C(N(CC1)C)=O)F | C22H26FN3O2
